US09035073B2
Tert-butyl 3-(2,3-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate
Preparation according to Preparation 2. Tert-butyl-3-(2,3-difluorophenyl)-3-hydroxypyrrolidin-1-carboxylate (8.12 g, 27.1 mmol) in dry tetrahydrofuran (50 mL), sodium hydride (60% dispersion in mineral oil, 1.63 g, 40.7 mmol), iodomethane (3.38 mL, 54.3 mmol). Purification by flash column chromatography on silica gel (ethyl acetate/isooctane, 1:9 to 1:1) gave the title compound (4.7 g, 55%). MS m/z (rel. intensity, 70 eV) 240 (bp), 237 (72), 183 (81), 171 (82), 57 (87).

reactant | Tert-butyl-3-(2,3-difluorophenyl)-3-hydroxypyrrolidin-1-carboxylate | 27.1 mmol, 8.12 g | C(C)(C)(C)OC(=O)N1CC(CC1)(O)C1=C(C(=CC=C1)F)F | C15H19F2NO3
reactant | sodium hydride | 40.7 mmol, 1.63 g | [H-].[Na+]
reactant | iodomethane | 54.3 mmol, 3.38 mL | IC | CH3I
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Tert-butyl 3-(2,3-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate | 4.7 g, 55% | FC1=C(C=CC=C1F)C1(CN(CC1)C(=O)OC(C)(C)C)OC | C16H21F2NO3
